US08071592B2
(a) Cis-phenylmethyl (3RS,5SR)-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-5-hydroxy-1-piperidinecarboxylate
To cis-phenylmethyl (3RS,5SR)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-piperidinecarboxylate (for a preparation, see Example 134(e)) (0.92 g, 1.8 mmol) in 10 mL of THF at 0° C. was added a 1N solution of tetrabutyl ammonium fluoride in THF (4 mL, 4.0 mmol). The reaction was allowed to stir under nitrogen while warming to room temperature over 2 h. The reaction was partitioned between EtOAc and saturated aqueous NH4Cl. The organic phase was separated and washed with saturated aqueous NaHCO3, and brine, dried over Na2SO4, and concentrated under reduced pressure. The crude residue was purified by chromatography on silica gel using a 5-100% EtOAc/hexanes gradient to provide the desired compound (380 mg; 54%) as a colorless oil.

reactant | cis-phenylmethyl (3RS,5SR)-3-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-1-piperidinecarboxylate | CC(C)(C)[Si](O[C@@H]1CN(C[C@@H](C1)CN1C(C2=CC=CC=C2C1=O)=O)C(=O)OCC1=CC=CC=C1)(C)C | C28H36N2O5Si
reactant | tetrabutyl ammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 4.0 mmol, 4 mL | C1CCOC1 | C4H8O
product | Cis-phenylmethyl (3RS,5SR)-3-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-5-hydroxy-1-piperidinecarboxylate | 380 mg, 54% | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H]1CN(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1 | C22H22N2O5
